US07732463B2
1-Bromo-2-(2,4-dimethyl-phenylsulfanyl)-5-(trifluoromethyl)-benzene (intermediate for 1c).
Prepared from 2,4-dimethyl-benzenethiol and 2-bromo-1-iodo-4-trifluoromethyl-benzene.

reactant | 2,4-dimethyl-benzenethiol | CC1=C(C=CC(=C1)C)S | C8H10S
reactant | 2-bromo-1-iodo-4-trifluoromethyl-benzene | BrC1=C(C=CC(=C1)C(F)(F)F)I | C7H3BrF3I
product | 1-Bromo-2-(2,4-dimethyl-phenylsulfanyl)-5-(trifluoromethyl)-benzene | BrC1=C(C=CC(=C1)C(F)(F)F)SC1=C(C=C(C=C1)C)C | C15H12BrF3S
